US07153873B2
1-acetyl-3-cyclohexylamino-2-pyridin-2-yl-imidazo[1,2-a]pyridin-1-ium chloride
Example 15 was carried out in accordance with the general directions for synthesis in process step a) from 1.0 ml (0.1 mmol) 2-amino-pyridine (0.1 M, DCM), 0.575 ml (0.115 mmol) cyclohexylisonitrile solution (0.2 M, DCM), 0.500 ml (0.15 mmol) pyridine-2-carbaldehyde solution (0.3 M, DCM) and 10 μl perchloric acid (w=20%) and in process step c) and d) by reacting the resultant reaction product with 0.4 mmol acetylchloride.

reactant | 2-amino-pyridine | 0.1 mmol, 0.1 M, 1.0 ml | NC1=NC=CC=C1 | C5H6N2
reactant | cyclohexylisonitrile | 0.115 mmol, 0.2 M, 0.575 ml | C1(CCCCC1)[N+]#[C-] | C7H11N
reactant | pyridine-2-carbaldehyde | 0.15 mmol, 0.3 M, 0.500 ml | N1=C(C=CC=C1)C=O | C6H5NO
reactant | acetylchloride | 0.4 mmol | C(C)(=O)Cl | C2H3ClO
solvent | perchloric acid | 10 μl | Cl(=O)(=O)(=O)O | ClHO4
product | 1-acetyl-3-cyclohexylamino-2-pyridin-2-yl-imidazo[1,2-a]pyridin-1-ium chloride | [Cl-].C(C)(=O)[N+]=1C(=C(N2C1C=CC=C2)NC2CCCCC2)C2=NC=CC=C2 | InChI=1S/C20H23N4O.ClH/c1-15(25)24-18-12-6-8-14-23(18)20(22-16-9-3-2-4-10-16)19(24)17-11-5-7-13-21-17;/h5-8,11-14,16,22H,2-4,9-10H2,1H3;1H/q+1;/p-1
